US05767131
Methyl 5-methoxyvalerate (7.33 g, 50.2 mmol) and KOH (14.4 g, 0.256 mol) were dissolved into a mixture of 50 ml of water and 150 ml of MeOH. The solution was stirred at 0° C. for 2 hrs then MeOH was removed in vacuo. After washed by CHCl3 (50 ml), the aqueous layer was acidified to pH=1 by 2N HCl and extracted by Et2O (2×100 ml). Organic layers were combined, washed with water (100 ml) and dried over Na2 SO4. After filtration and evaporation of solvent, 5-methoxyvaleric acid (5.27 g, 79.6%) was obtained as a colorless oil.

reactant | Methyl 5-methoxyvalerate | 50.2 mmol, 7.33 g | COCCCCC(=O)OC | C7H14O3
reactant | KOH | 0.256 mol, 14.4 g | [OH-].[K+]
reactant | water | 50 ml | O | H2O
solvent | MeOH | 150 ml | CO | CH4O
product | 5-methoxyvaleric acid | 5.27 g, 79.6% | COCCCCC(=O)O | C6H12O3
